US05858995
A mixture of 6-(3-acetoxyacetylamino-2,6-dichlorobenzoylamino)-1,2,3,4-tetrahydrodibenzofuran (67 mg) and aqueous 1N-sodium hydroxide (0.5 ml) in a mixture of dichloromethane (1 ml) and methanol (1 ml) was stirred at ambient temperature for 1 hour. The mixture was partitioned between a mixture of dichloromethane and ethanol (8:2) and water. The organic layer was separated, washed with brine, dried over sodium sulfate and concentrated in vacuo. The residue was crystallized from ethanol to give 6-(2,6-dichloro-3-hydroxyacetylamino-benzoylamino)-1,2,3,4-tetrahydrodibenzofuran (30 mg).

reactant | 6-(3-acetoxyacetylamino-2,6-dichlorobenzoylamino)-1,2,3,4-tetrahydrodibenzofuran | 67 mg | C(C)(=O)OCC(=O)NC=1C(=C(C(=O)NC2=CC=CC=3C4=C(OC32)CCCC4)C(=CC1)Cl)Cl | C23H20Cl2N2O5
reactant | sodium hydroxide | 0.5 ml | [OH-].[Na+]
solvent | dichloromethane | 1 ml | ClCCl | CH2Cl2
solvent | methanol | 1 ml | CO | CH4O
product | 6-(2,6-dichloro-3-hydroxyacetylamino-benzoylamino)-1,2,3,4-tetrahydrodibenzofuran | 30 mg | ClC1=C(C(=O)NC2=CC=CC=3C4=C(OC32)CCCC4)C(=CC=C1NC(CO)=O)Cl | C21H18Cl2N2O4
